US06825198B2
Preparation of (3-Chloro-benzyl)-(4-piperazin-1-yl-pyrimidin-2-yl)-amine, hydrochloride (3-A):
To a solution of 4-[2-(3-chloro-benzylamino)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (I-3a) (48.5 mg, 0.12 mmol) in CH2Cl2 (1 mL) was added trifluoroacetic acid (139 μL, 1.8 mmol). After stirring at room temperature for 3 h, the mixture was poured into 1N NaOH (10 mL) and extracted with CH2Cl2 (1×35 mL). The organic layer was washed with brine, dried and concentrated to afford the title compound as a free amine. The free amine in CH2Cl2 (1 mL) was added to 1 M HCl in ether (0.10 mL, 0.10 mmol). After stirring for 10 min at room temperature, the solution was concentrated in vacuo to yield the hydrochloride salt (3-A) (32.4 mg) as a yellow solid.

reactant | 4-[2-(3-chloro-benzylamino)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.12 mmol, 48.5 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)NCC1=CC(=CC=C1)Cl | C20H26ClN5O2
reactant | trifluoroacetic acid | 1.8 mmol, 139 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (3-Chloro-benzyl)-(4-piperazin-1-yl-pyrimidin-2-yl)-amine, hydrochloride | Cl.ClC=1C=C(CNC2=NC=CC(=N2)N2CCNCC2)C=CC1 | InChI=1S/C15H18ClN5.ClH/c16-13-3-1-2-12(10-13)11-19-15-18-5-4-14(20-15)21-8-6-17-7-9-21;/h1-5,10,17H,6-9,11H2,(H,18,19,20);1H
